US06147098
b) N-Cyano-N'-(3,5-dichlorophenyl)-N"-(2-chlorobenzyl)guanidine
To a solution of N-(3,5-dichlorophenyl)-N'-cyano-O-phenylisourea (0.8 mmol, 250 mg) in dry acetonitrile (2 ml), 2-chlorobenzylamine (0.9 mmol, 0.108 ml) and triethylamine (0.125 ml) were added. The mixture was stirred for 21/2 h at 82° C. under nitrogen. After concentration the residue was recrystallized from ethyl acetate to give the title compound (208 mg, 72%). Mp 186-187.5° C.; 1H-NMR (CDCl3): δ 4.54 (d, 2H), 5.53 (br, 1H), 7.15 (m, 2H), 7.3 (m, 3H), 7.4 (m, 2H), 7.75 ppm (br, 1H); EI SP/MS: 394 (M+). MA calc for C15H11C13N4 : C, 50.95%; H, 3.14%; N, 15.84%. Found: C, 50.68%; H, 3.10%; N, 15.49%.

reactant | N-(3,5-dichlorophenyl)-N'-cyano-O-phenylisourea | 0.8 mmol, 250 mg | ClC=1C=C(C=C(C1)Cl)NC(OC1=CC=CC=C1)=NC#N | C14H9Cl2N3O
reactant | 2-chlorobenzylamine | 0.9 mmol, 0.108 ml | ClC1=C(CN)C=CC=C1 | C7H8ClN
reactant | triethylamine | 0.125 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | N-Cyano-N'-(3,5-dichlorophenyl)-N"-(2-chlorobenzyl)guanidine | 208 mg, 72% | C(#N)NC(=NCC1=C(C=CC=C1)Cl)NC1=CC(=CC(=C1)Cl)Cl | C15H11Cl3N4
